US05208263
1-(2-Hydroxyethyl)-5-methoxynaphthalene (16)
To a stirred suspension of 3 g (0.08 mole) of LiAlH4 in 100 mL of dry Et2O, a solution of 30 g (0.12 mole) of ethyl-5-methoxy-naphthalene-1-acetate in 400 mL of dry Et2O was added over 135 mins under N2. The mixture was stirred for 2 h, cooled in ice, and decomposed by dropwise addition of 20 mL of satd. aq. Na2SO4 solution. The precipitate was filtered off and washed with Et2O. After evaporation of the solvent a crystalline product remained that was stirred with cold hexane. The alcohol (21.95 g, 90.5%) melted at 61°-62° C.

reactant | LiAlH4 | 0.08 mole, 3 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl-5-methoxy-naphthalene-1-acetate | 0.12 mole, 30 g | C(C)OC(CC1=CC=CC2=C(C=CC=C12)OC)=O | C15H16O3
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | Et2O | 400 mL | CCOCC | C4H10O
product | 1-(2-Hydroxyethyl)-5-methoxynaphthalene | OCCC1=CC=CC2=C(C=CC=C12)OC | C13H14O2
